US05753673
A solution of 3.88 g of 1-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarboxylic acid and 5.0 ml of thionyl chloride in 50 ml of toluene was stirred at 100° C. for 5 hours. After toluene was distilled off under vacuum, toluene was again added to the residue. The solvent was again distilled off under vacuum to give 4.22 g of 1-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarbonyl chloride.

reactant | 1-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarboxylic acid | 3.88 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)O)=O | C13H13NO3
reactant | thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarbonyl chloride | 4.22 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)Cl)=O | C13H12ClNO2
